Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Confusion, upper GI bleeding 
 
Major Surgical or Invasive Procedure:
EGD ___: APC to vascular ectasia in the duodenum 
PICC line placement ___

 
History of Present Illness:
Mr. ___ is a ___ year old man with a history of Caroli
disease and well compensated cirrhosis who presents from ___ 
with
confusion, abdominal pain and vomiting. 

He was just on vacation in ___ and approximately 3d ago
his wife noticed that he wasn't acting like himself, was
confused, and asking repetitive questions. He had diarrhea for
one week, some of which was black of dark red. He also had some
abomdinal pain that was not significantly different from normal,
but did have some nausea and vomiting with bright red blood in
the emesis.  He has a history of cholangitis and typically has
fevers and chills, which he hasn't had. 

He presented to the ___ ED. At ___ had WBc 13.8, INR 1.4, T bili
2.4, AST/ALT 143/123, Lactate 2.1, BNP 582, TropT 0.39. CTA
without PE. CTAP with distended gallbladder with pericholecystic
fluid and stone at gallbladder neck. A blood culture grew gram
positive organisms in short chains. 

On arrival to the floor, he reports still feeling somewhat
confused. He has not had further nausea/vomiting. He is very
thirsty. 

EMERGENCY DEPARTMENT COURSE
Initial vital signs were notable for:  
- T 96.9, HR 86, BP 129/71, RR 16, O2 95% RA
 
Exam notable for: 
- Benign abdomen 

Labs were notable for:  
- ALT 108
- AP 246
- T bili 2.3
- AST 115
- Cr 1.3, BUN 43
- Lactate 2.3 

Patient was given:
- Zosyn
- Protonix   
- Urosodiol 600mg
- Lasix 40mg PO
- Nadolol 20mg
- Amliloride 10mg
- Vancomycin

Consults: 
- Hepatology 
 
================= 
REVIEW OF SYSTEMS 
================= 
Complete ROS obtained and is otherwise negative.  

 
Past Medical History:
-___ Syndrome with recurrent cholangitis and bacteremia, most 
recent from highly resistant E. coli treated with tigecycline 
(finished late ___  
-Cirrhosis  
-Inguinal hernia repair in ___  
-Depression  
-Osteopenia per patient  
-Seasonal allergies  
-Bee allergy  

 
Social History:
___
Family History:
Mother is alive with heart disease. Father died at ___ of 
?cancer. No family history of liver disease or polycystic kidney 
disease. 
 
Physical Exam:
========================
ADMISSION PHYSICAL EXAM
========================
VITALS: T 98.9, BP 127/77, HR 78, RR 22, ___ 
GENERAL: Tired appearing, lying in bed, arousable to voice
HEENT: Pupils equal and reactive, mild scleral icterus, dry
mucous membranes, 
CARDIAC: S1/S2 regular with no murmurs, rubs or S3/S4
LUNGS: Poor air movement, bibasilar rales, diminished lung 
sounds
bilaterally
BACK: No CVA tenderness
ABDOMEN: Soft, mildly tender to palpation diffusely, worse in
LUQ. Umbilical hernia soft and reducible. 
EXTREMITIES: 2+ pitting edema to upper shins 
SKIN: Scattered superficial abrasions throughout abdomen
NEUROLOGIC: A+Ox3, though slow to identify date. Mild asterixis.
CNII-XII normal. 

=======================
DISCHARGE PHYSICAL EXAM
=======================
General: Elderly gentleman, sitting up in chair
HEENT: Sclera anicteric, mucous membranes moist
Lungs: vesicular breath sounds bilaterally 
CV: Regular rate and rhythm, no murmurs
Abdomen: obese, distended, no tenderness to palpation, reducible
umbilical hernia
Ext: Warm, well perfused, ___ bilateral pitting edema of lower
extremities up to knees. Patient had removed compression
stockings just prior to exam.
Neuro: Alert, cranial nerves grossly intact
 
Pertinent Results:
=======================
ADMISSION LAB RESULTS
=======================
___ 04:13AM BLOOD WBC-12.5* RBC-3.55* Hgb-10.7* Hct-32.6* 
MCV-92 MCH-30.1 MCHC-32.8 RDW-18.6* RDWSD-56.5* Plt Ct-82*
___ 04:13AM BLOOD Neuts-87* Bands-1 Lymphs-4* Monos-2* 
Eos-0* ___ Myelos-6* NRBC-0.2* AbsNeut-11.00* AbsLymp-0.50* 
AbsMono-0.25 AbsEos-0.00* AbsBaso-0.00*
___ 04:13AM BLOOD ___ PTT-28.2 ___
___ 04:13AM BLOOD Glucose-115* UreaN-43* Creat-1.3* Na-138 
K-8.2* Cl-108 HCO3-20* AnGap-10
___ 04:13AM BLOOD ALT-113* AST-175* AlkPhos-217* 
TotBili-2.1*
___ 04:13AM BLOOD Lipase-39
___ 04:13AM BLOOD Albumin-2.6*

======================
DISCHARGE LAB RESULTS
======================
___ 07:34AM BLOOD WBC-3.2* RBC-2.97* Hgb-9.1* Hct-29.1* 
MCV-98 MCH-30.6 MCHC-31.3* RDW-21.2* RDWSD-75.1* Plt Ct-72*
___ 07:34AM BLOOD Glucose-88 UreaN-12 Creat-0.9 Na-142 
K-4.6 Cl-109* HCO3-24 AnGap-9*
___ 07:34AM BLOOD ALT-27 AST-28 LD(LDH)-236 AlkPhos-130 
TotBili-1.7*

===============
MICRO DATA
===============
________________________________________________________
___ 12:46 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 10:42 am BLOOD CULTURE      #2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 8:51 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 5:03 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ENTEROCOCCUS FAECALIS. 
         Identification and susceptibility testing performed on 
culture # 
         ___ (___). 

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS. 
__________________________________________________________
___ 7:20 am BLOOD CULTURE      2 OF 2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ENTEROCOCCUS FAECALIS. 
         Identification and susceptibility testing performed on 
culture # 
         ___ ___. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 
__________________________________________________________
___ 7:00 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ENTEROCOCCUS FAECALIS.    FINAL SENSITIVITIES. 
         HIGH LEVEL GENTAMICIN SCREEN: Susceptible to 500 mcg/ml 
of
         gentamicin. Screen predicts possible synergy with 
selected
         penicillins or vancomycin. Consult ID for details. 
         HIGH LEVEL STREPTOMYCIN SCREEN: Susceptible to 
1000mcg/ml of
         streptomycin.  Screen predicts possible synergy with 
selected
         penicillins or vancomycin.  Consult ID for details.. 
         Daptomycin MIC =  1.0 MCG/ML. 
         Daptomycin test result performed by Etest. 
         TETRACYCLINE Susceptibility testing requested per 
___
         (___) (___). 
         TETRACYCLINE IS NOT INTENDED FOR THE PRIMARY TREATMENT 
OF BLOOD
         STREAM INFECTIONS. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS FAECALIS
                             |   
AMPICILLIN------------   <=2 S
DAPTOMYCIN------------       S
LINEZOLID-------------     2 S
PENICILLIN G----------     2 S
TETRACYCLINE----------   <=1 S
VANCOMYCIN------------     1 S

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 
      Reported to and read back by ___ @2149 ON 
___. 

=====================
IMAGING AND REPORTS
=====================

RUQ ULTRASOUND ___
IMPRESSION: 
1. No biliary dilation or gallstones.  Distended gallbladder 
without wall 
thickening, as seen previously.  MRCP could further evaluate for 
cholangitis and the gallbladder distention. 
2. Cirrhotic liver with stable splenomegaly and redemonstrated 
patent 
paraumbilical vein. Patent portal vein. 

CHEST X-RAY ___
IMPRESSION:  
Low lung volumes with mild pulmonary edema and trace left 
pleural effusion.  Persistent bibasilar atelectasis.

MRCP ___
IMPRESSION: 
1. No MR evidence of acute cholangitis.  Apparent 4 mm central 
filling defect in the distal CBD likely represents a flow void, 
without definite evidence of choledocholithiasis. 
2. Well distended gallbladder without signs of acute 
cholecystitis, may be due to fasting state. 
3. Overall stable saccular dilation of predominantly right-sided 
intrahepatic bile ducts, together with cirrhotic liver 
morphology and portal hypertension, consistent with known ___ 
syndrome. 

TRANSTHORACIC ECHO ___
IMPRESSION: No 2D echocardiographic evidence for endocarditis. 
Mild symmetric left ventricular hypertrophy with normal cavity 
size and regional/global biventricular systolic function. 
Moderate
tricuspid regurgitation. Moderate pulmonary hypertension.
Compared with the prior TTE (images not available for review) of 
___ , the estimated pulmonary artery systolic pressure is 
now increased. Tricuspid regurgitation is more prominent.

UPPER ENDOSCOPY ___
1. One cord of grade I  varices in the distal esophagus. Not 
bleeding.
2. Diffuse congestion, petechiae and mosaic mucosal pattern of 
the stomach with contact bleeding in the fundus and body. 
Compatible with PHG.
3. Single small non bleeding localized angioectasia seen in the 
second part of the duodenum. Angioectasia was ablated 
completely. APC was successfully applied for hemostasis. 
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with a history of Caroli 
disease, cirrhosis, known esophageal varices who developed 
confusion and upper GI bleeding while on vacation in ___. 
He was treated for acute cholangitis, upper GI bleed likely from 
portal hypertensive gastropathy, and hepatic encephalopathy. He 
was discharged on his home medications with the addition of 
lactulose and daptomycin. He will follow up with PCP, infectious 
disease and hepatology for further management.

ACUTE PROBLEMS:
===============
# Acute cholangitis
# Enterococcus faecalis bacteremia
Patient has history of recurrent cholangitis due to intrahepatic 
biliary ductal dilation from ___'s disease. He has been on 
maintenance outpatient antibiotics and hasn't had any infections 
since about ___. Patient developed nausea, hematemesis and 
bloody bowel movement while on vacation with his wife in ___. 
___. The episodes were self-limited, and they presented to 
nearest ER on return to ___ (which was ___. He was 
transferred to ___. Here, MRCP did not show any specific 
changes in biliary ducts. However, given that his disease is 
intra-hepatic, imaging may not be sensitive enough to identify 
changes. His blood cultures grew Enterococcus faecalis, and his 
initial broad antibiotic coverage was adjusted to Daptomycin 
with input from infectious disease team. He underwent placement 
of PICC line on ___ and was discharged with plan to follow up 
with ID. Routine TTE for bacteremia was normal.

# Upper GI bleed
Patient has history of bleeding esophageal varices that were 
previously banded. Most recent EGD was in ___ and showed grade 
I varices in the esophagus. Due to report of hematemesis and 
dark stool several days prior to admission, patient underwent 
EGD. This showed portal hypertensive gastropathy with bleeding 
on contact as well as small duodenal vascular ectasia that was 
treated with APC. There was no evidence of variceal bleeding on 
this exam. Colonoscopy was not done but should be pursued 
outpatient given that upper endoscopy findings were relatively 
underwhelming. He likely developed bleeding secondary to 
bacteremia from a biliary source. He was maintained on PPI and 
will follow up with hepatology at discharge, at which time 
colonoscopy should be discussed.

# Acute decompensated cirrhosis: hepatic encephalopathy, volume 
overload, UGIB
# ___'s disease
Admission MELD-NA of 18. Patient has ___'s disease and 
subsequent liver cirrhosis for about ___ years. On this 
admission, his cirrhosis was decompensated by hepatic 
encephalopathy, volume overload and portal hypertensive 
gastropathy with GI bleeding. He likely developed bacteremia 
from cholangitis, which subsequently precipitated both GI bleed 
and hepatic encephalopathy.
Patient was started on lactulose due to encephalopathy. Wife 
reported that over the last several weeks patient was showing 
signs of forgetfulness and confusion, and then developed altered 
sleep pattern while on vacation. This likely occurred in the 
setting of infection and GI bleeding. Patient will be discharged 
on lactulose titrated to ___ bowel movements daily (has not 
previously been on lactulose).
GI bleeding was addressed as above. Underwent APC this 
admission, no varices. He was restarted on home nadolol at 
discharge.
Home diuretics were initially held due to acute kidney injury. 
After EGD, he underwent IV diuresis due to worsening lower 
extremity edema and dyspnea. This improved and he was restarted 
on home diuretics at discharge. He was continued on home 
ursodiol. He will follow up with liver clinic (Dr. ___.

# Acute kidney injury
Baseline creatinine is about 1. On initial presentation to ___ 
it was elevated to 1.4. It improved with fluid and albumin for 
volume resuscitation. He likely was volume depleted after 
vomiting and diarrhea. Discharge creatinine was 0.9.

CHRONIC PROBLEMS:
================
# Depression
- Continue home citalopram

==============================
TRANSITIONAL ISSUES
==============================
[] Patient will be receiving Daptomycin once a day at the 
___ at ___. ___ and ___, he will get 
it at their ___. The rest of the days of the week, 
he will need to go to the ___, located in the 
emergency room at ___. 

#CODE: Full, limited trial of life sustaining measures, 
confirmed
#CONTACT: Wife, ___, ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. aMILoride 10 mg PO DAILY 
2. Cefpodoxime Proxetil 200 mg PO Q12H 
3. LevoFLOXacin 500 mg PO Q24H 
4. Citalopram 20 mg PO DAILY 
5. Nadolol 20 mg PO DAILY 
6. Pantoprazole 40 mg PO Q24H 
7. Ursodiol 600 mg PO BID 
8. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
9. Magnesium Oxide 400 mg PO DAILY 
10. Sildenafil 50 mg PO DAILY:PRN sexual activity 
11. Furosemide 40 mg PO DAILY 
12. EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 allergic reaction 
13. calcium carbonate-vitamin D3 600 mg(1,500mg) -400 unit oral 
DAILY 
14. Loratadine 10 mg PO DAILY 

 
Discharge Medications:
1.  Daptomycin 850 mg IV Q24H  
2.  Lactulose 30 mL PO Q2H 
RX *lactulose 20 gram/30 mL 30 ml by mouth once a day Disp #*1 
Bottle Refills:*0 
3.  rifAXIMin 550 mg PO BID 
RX *rifaximin [Xifaxan] 550 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
4.  aMILoride 10 mg PO DAILY  
5.  calcium carbonate-vitamin D3 600 mg(1,500mg) -400 unit oral 
DAILY  
6.  Citalopram 20 mg PO DAILY  
7.  EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 allergic reaction 
Duration: 1 Dose  
8.  Furosemide 40 mg PO DAILY  
9.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
10.  Loratadine 10 mg PO DAILY  
11.  Magnesium Oxide 400 mg PO DAILY  
12.  Nadolol 20 mg PO DAILY  
13.  Pantoprazole 40 mg PO Q24H  
14.  Sildenafil 50 mg PO DAILY:PRN sexual activity  
15.  Ursodiol 600 mg PO BID  
16. HELD- Cefpodoxime Proxetil 200 mg PO Q12H  This medication 
was held. Do not restart Cefpodoxime Proxetil until discussion 
with infectious disease team
17. HELD- LevoFLOXacin 500 mg PO Q24H  This medication was held. 
Do not restart LevoFLOXacin until discussion with the infectious 
disease team

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
-Acute cholangitis
-Enterococcus bacteremia
-Acute decompensated liver cirrhosis
SECONDARY:
-Hepatic encephalopathy
-Upper GI bleed
-Acute kidney injury 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure caring for you at ___ 
___.  

WHY WERE YOU IN THE HOSPITAL?  
- You were admitted to the hospital for confusion, bleeding and 
concern for cholangitis. 

WHAT HAPPENED WHEN YOU WERE IN THE HOSPITAL?  
- You had an imaging study of your abdomen that did show some 
possibility of cholangitis.
- Your blood cultures grew bacteria called Enterococcus. This 
was treated with IV antibiotics.
- You had an endoscopy done which showed changes in your stomach 
due to your liver disease. You had a chemical treatment done to 
prevent from bleeding. No banding was done. 
- You had a PICC line placed so that you could get IV 
antibiotics at home.

WHAT SHOULD YOU DO AFTER YOU LEAVE THE HOSPITAL?  
- Continue to take all your medicines as prescribed below. 
- Show up to your appointments as listed below.
- You are scheduled to get antibiotics at the ___ 
___. ___ and ___, you will get it at their infusion 
center. The rest of the days of the week, you will need to go to 
the ___, located in the emergency room at ___ 
___.  

We wish you the best!  

Sincerely,  

Your ___ Team

 
Followup Instructions:
___